US05106530
0.35 g (0.01 mmol of Pt) of 0.5% strength dicyclopentadienylplatinum dichloride solution in dichloromethane was added as catalyst to a solution of 5.00 g (9.71 mmol) of 4-(5-hexenyloxy)phenyl 4-(3-butenyloxy)benzoate in 10 ml of dichloromethane, and 2.02 g (27.2 mmol) of trimethylsilane were passed into the refluxing mixture over the course of 8 hours. After complete hydrosilylation of the olefin, the reaction mixture was flushed with nitrogen, and the dichloromethane was removed by vacuum distillation on a rotary evaporator. The crude product was purified by chromatography on silica gel, to give 4-(1-trimethylsilylhexyloxy)phenyl 4-(1-trimethylsilylbutyloxy)benzoate, phases: c 72 i.

reactant | 4-(5-hexenyloxy)phenyl 4-(3-butenyloxy)benzoate | 9.71 mmol, 5.00 g | C(CC=C)OC1=CC=C(C(=O)OC2=CC=C(C=C2)OCCCCC=C)C=C1 | C23H26O4
reactant | trimethylsilane | 27.2 mmol, 2.02 g | C[SiH](C)C | C3H10Si
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | dicyclopentadienylplatinum dichloride | C1(C=CC=C1)[Pt](C1C=CC=C1)(Cl)Cl
product | 4-(1-trimethylsilylhexyloxy)phenyl 4-(1-trimethylsilylbutyloxy)benzoate | C[Si](C(CCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)OC(CCCCC)[Si](C)(C)C)C=C1)(C)C | C29H46O4Si2
